US06348625B1
Preparation of 1-Adamantanecarboxamide
1-Adamantanecarboxylic acid (10.8 g, 0.06 mole) was added to N,N-diethyl-1,1,2,3,3,3-hexafluoropropylamine (13.4 g, 0.06 mole) contained in a wide mouth polyethylene bottle with magnetic stirring. The acid dissolved immediately during which time a highly exothermic reaction occurred. The reaction mixture was allowed to cool to room temperature and cold aqueous ammonia (250 ml) was added slowly. A heavy precipitate of the amide appeared almost immediately. After the addition was complete, the reaction mixture was stirred for about fifteen minutes. The 1-adamantanecarboxamide was collected and washed copiously with water followed by ethyl ether and dried. Yield: 10.7 g, 100%; mp 189.4-190.2° C. (Lit. mp 189° C., Stetter, et. al., Chem. Ber., 1960, 226-230). The analytical sample was recrystallized from cyclohexane and sublimed. Anal. Calcd. for C11H17NO: C, 73.76; H, 9.49; N, 7.82. Found: C, 73.67; H. 9.60; N, 7.78.

reactant | 1-Adamantanecarboxylic acid | 0.06 mole, 10.8 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | N,N-diethyl-1,1,2,3,3,3-hexafluoropropylamine | 0.06 mole, 13.4 g | C(C)N(CC)C(C(C(F)(F)F)F)(F)F | C7H11F6N
reactant | polyethylene | C(C[*:2])[*:1]
solvent | ammonia | 250 ml | N | H3N
product | 1-Adamantanecarboxamide | C12(CC3CC(CC(C1)C3)C2)C(=O)N | C11H17NO
